US09359362B2
(rac)-4-(4-Cyanophenyl)-2-hydrazinyl-6-methyl-1-[3-(trifluoromethyl)phenyl]-1,4-dihydropyrimidine-5-carbonitrile trifluoroacetate
4-(4-Cyanophenyl)-6-methyl-2-thioxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydropyrimidine-5-carbonitrile (100 mg, 0.25 mmol) was dissolved in a mixture of ethanol (10 ml) and toluene (5 ml). At 0° C., tert-butyl hydroperoxide (3 M solution in toluene, 602 μl, 1.81 mmol, 7.2 eq.) was added dropwise. The mixture was stirred at RT for 3 h, and hydrazine hydrate (183 μl, 3.76 mmol, 15 eq.) was then added. After 12 h of stirring, more tert-butyl hydroperoxide solution (3 M in toluene, 167 μl, 0.50 mmol, 2 eq.) and hydrazine hydrate (49 μl, 1.00 mmol, 4 eq.) were added, and the mixture was stirred for a further 3 h. The mixture was then substantially concentrated under reduced pressure, water (2 ml) was added and the remaining organic solvents were distilled off. The aqueous residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the title compound was obtained as a solid (13.7 mg, 14% of theory).

reactant | 4-(4-Cyanophenyl)-6-methyl-2-thioxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydropyrimidine-5-carbonitrile | 0.25 mmol, 100 mg | C(#N)C1=CC=C(C=C1)C1NC(N(C(=C1C#N)C)C1=CC(=CC=C1)C(F)(F)F)=S | C20H13F3N4S
reactant | tert-butyl hydroperoxide | 1.81 mmol, 3 M, 602 μl, 7.2 eq. | C(C)(C)(C)OO | C4H10O2
reactant | hydrazine hydrate | 3.76 mmol, 183 μl, 15 eq. | O.NN
reactant | tert-butyl hydroperoxide | 0.50 mmol, 3 M, 167 μl, 2 eq. | C(C)(C)(C)OO | C4H10O2
reactant | hydrazine hydrate | 1.00 mmol, 49 μl, 4 eq. | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (rac)-4-(4-Cyanophenyl)-2-hydrazinyl-6-methyl-1-[3-(trifluoromethyl)phenyl]-1,4-dihydropyrimidine-5-carbonitrile trifluoroacetate | FC(C(=O)O)(F)F.C(#N)C1=CC=C(C=C1)C1N=C(N(C(=C1C#N)C)C1=CC(=CC=C1)C(F)(F)F)NN | InChI=1S/C20H15F3N6.C2HF3O2/c1-12-17(11-25)18(14-7-5-13(10-24)6-8-14)27-19(28-26)29(12)16-4-2-3-15(9-16)20(21,22)23;3-2(4,5)1(6)7/h2-9,18H,26H2,1H3,(H,27,28);(H,6,7)
